US06103907
(a) Diethyl 2-(4-benzyloxybenzyl)-2-phenoxymalonate
Reaction and post-treatment were carried out according to Reference example 12(a) using 2.81 g of diethyl phenoxymalonate, 2.59 g of 4-benzyloxybenzyl chloride and 530 mg of sodium hydride (55% oil suspension) to obtain 3.10 g of the desired compound as a syrup.

reactant | diethyl phenoxymalonate | 2.81 g | O(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O5
reactant | 4-benzyloxybenzyl chloride | 2.59 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium hydride | 530 mg | [H-].[Na+]
product | Diethyl 2-(4-benzyloxybenzyl)-2-phenoxymalonate | 3.10 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)OC2=CC=CC=C2)C=C1 | C27H28O6
